US05591862
According to the method described for Reference Example 45, 4-chloromethyl-5-methyl-2-(2-naphthyl)oxazole was allowed to react with 4-(4-hydroxyphenyl)butyronitrile to give 4-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]butyronitrile. Recrystallization from chloroform-ether gave colorless prisms, m.p.149°-151° C.

reactant | 4-chloromethyl-5-methyl-2-(2-naphthyl)oxazole | ClCC=1N=C(OC1C)C1=CC2=CC=CC=C2C=C1 | C15H12ClNO
reactant | 4-(4-hydroxyphenyl)butyronitrile | OC1=CC=C(C=C1)CCCC#N | C10H11NO
product | 4-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]butyronitrile | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)CCCC#N | C25H22N2O2
